US08053438B2
A solution of ethyl 3-(benzyl(methyl)amino)propanoate (3 g, 13.56 mmol) in ethanol (67.8 mL) was added palladium, 10 wt. % on carbon (0.3 g, 0.282 mmol) and hydrogenated (double-walled balloon pressure) at room temperature for 3 h. The reaction mixture was filtered via a pad of Celite, and the filtrate was concentrated in vacuo to give ethyl 3-(methylamino)propanoate (1.12 g, 63.0% yield) as a light golden yellow oil.

reactant | ethyl 3-(benzyl(methyl)amino)propanoate | 13.56 mmol, 3 g | C(C1=CC=CC=C1)N(CCC(=O)OCC)C | C13H19NO2
solvent | ethanol | 67.8 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | ethyl 3-(methylamino)propanoate | 1.12 g, 63.0% yield | CNCCC(=O)OCC | C6H13NO2
